US04485249
1 g of p-toluene sulphonic acid was added to a suspension of 77 g (0.3 mols) of benzil dimethyl ketal in 160 g (~1.8 mols) of cis-2-butene-1,4-diol, and heated to from 50° to 60° C. under a pressure of from 10 to 15 torr. After 45 minutes, a clear solution was obtained, the temperature of which rose to from 65° to 70° C. After a further 45 minutes, the reaction mixture had solidified into a crystal mass. After a total of 4 hours, the material was recrystallized from isopropanol, and 80 g (96%) of 2-benzoyl-2-phenyl-4,7-dihydro-1,3-dioxepin were obtained as colourless crystals having a melting point of from 118° to 119° C.

reactant | benzil dimethyl ketal | 0.3 mols, 77 g | COC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OC | C16H16O3
reactant | cis-2-butene-1,4-diol | ~1.8 mols, 160 g | C(\C=C/CO)O | C4H8O2
catalyst | p-toluene sulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-benzoyl-2-phenyl-4,7-dihydro-1,3-dioxepin | 80 g, 96% | C(C1=CC=CC=C1)(=O)C1(OCC=CCO1)C1=CC=CC=C1 | C18H16O3
